US09193693B2
Step 3. Methyl 3-(methyl(phenethyl)amino)-2-phenylquinoxaline-6-carboxylate
Into a 8-mL sealed tube, was placed a solution of methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (150 mg, 0.44 mmol, 1.00 equiv) in N,N-dimethylformamide (5 mL), N-methyl-2-phenylethanamine (177.6 mg, 1.32 mmol, 3.00 equiv), potassium carbonate (181.6 mg, 1.32 mmol, 3.00 equiv). The resulting solution was stirred overnight at 100° C. in an oil bath. The reaction was then quenched by the addition of water. The resulting solution was extracted with 3×20 mL of dichloromethane and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (100:1). This resulted in 153.3 mg (85%) of methyl 3-(methyl(phenethyl)amino)-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.44 mmol, 150 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | N-methyl-2-phenylethanamine | 1.32 mmol, 177.6 mg, 3.00 equiv | CNCCC1=CC=CC=C1 | C9H13N
reactant | potassium carbonate | 1.32 mmol, 181.6 mg, 3.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Methyl 3-(methyl(phenethyl)amino)-2-phenylquinoxaline-6-carboxylate | CN(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1)CCC1=CC=CC=C1 | C25H23N3O2
